US07384934B2
(S)-7-Chloro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Dissolve 7-chloro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride (1.46 g, 4.86 mmol) and (S)-2-(2-methoxy-ethyl)-piperazine (2.1 g, 14.6 mmol) in dimethylsulfoxide/toluene (1:2)(18 ml), stir under nitrogen and heat in an oil bath at 130° C. for 28.5 hours. Stir 16 hours at ambient temperature. Dilute the mixture with water and ethyl acetate, and extract with ethyl acetate. Combine the ethyl acetate extracts, wash with water and brine, dry the organic phase (Na2SO4), filter and concentrate under reduced pressure. Chromatograph on silica gel (eluent: 0-10% 2N ammonia in methanol/dichloromethane) to give the title compound (1.14 g, 60%), Mass Spectrum (ESMS) 391/393 (M+1), mp 179-183° C. (dec).

reactant | 7-chloro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 4.86 mmol, 1.46 g | Cl.ClC1=CC2=C(NC=3SC(=CC3C(=N2)N)C)C=C1
reactant | (S)-2-(2-methoxy-ethyl)-piperazine | 14.6 mmol, 2.1 g | COCC[C@@H]1NCCNC1 | C7H16N2O
solvent | dimethylsulfoxide toluene | 18 ml | CS(=O)C.C1(=CC=CC=C1)C
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-7-Chloro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 1.14 g, 60% | ClC1=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C)C=C1 | C19H23ClN4OS
